* /home/sumanto/desktop/verilog/esim/serialadder/serialadder.cir

* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ net-_u4-pad14_ net-_u4-pad15_ jserialadder
* u7  clk rst a b carryin net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ adc_bridge_5
* u9  net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ y3 y2 y1 y0 carryout isvalid currentsum currentcarry dac_bridge_8
* u8  net-_u4-pad14_ net-_u4-pad15_ currentbitcount1 currentbitcount0 dac_bridge_2
* u10  y3 plot_v1
* u11  y2 plot_v1
* u12  y1 plot_v1
* u13  y0 plot_v1
* u14  carryout plot_v1
* u15  isvalid plot_v1
* u16  currentsum plot_v1
* u17  currentcarry plot_v1
* u6  clk plot_v1
* u5  rst plot_v1
* u3  a plot_v1
* u2  b plot_v1
* u1  carryin plot_v1
v1  carryin gnd pulse(0 5 0.1m 0.1m 0.1m 8 16)
v2  b gnd pulse(0 5 0.1m 0.1m 0.1m 4 8)
v3  a gnd pulse(0 5 0.1m 0.1m 0.1m 2 4)
v4  rst gnd pulse(0 5 0.1m 0.1m 0.1m 1 1000)
v5  clk gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
* u18  currentbitcount1 plot_v1
* u19  currentbitcount0 plot_v1
a1 [net-_u4-pad1_ ] [net-_u4-pad2_ ] [net-_u4-pad3_ ] [net-_u4-pad4_ ] [net-_u4-pad5_ ] [net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ ] [net-_u4-pad10_ ] [net-_u4-pad11_ ] [net-_u4-pad12_ ] [net-_u4-pad13_ ] [net-_u4-pad14_ net-_u4-pad15_ ] u4
a2 [clk rst a b carryin ] [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ ] u7
a3 [net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ net-_u4-pad13_ ] [y3 y2 y1 y0 carryout isvalid currentsum currentcarry ] u9
a4 [net-_u4-pad14_ net-_u4-pad15_ ] [currentbitcount1 currentbitcount0 ] u8
* Schematic Name:                             jserialadder, NgSpice Name: jserialadder
.model u4 jserialadder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y3) v(y2)+6 v(y1)+12 v(y0)+18 v(carryout)+24 v(isvalid)+30 v(currentsum)+36 v(currentcarry)+42 v(clk)+48 v(rst)+54 v(a)+60 v(b)+66 v(carryin)+72  v(currentbitcount1)+78  v(currentbitcount0)+84
.endc
.end
