* /home/sumanto/desktop/verilog/esim/spi/spi.cir

* u2  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad1_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ ? ? ? ? ? ? net-_u2-pad24_ net-_u2-pad25_ spi
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ counter8bit
v1  net-_u3-pad1_ gnd pulse(0 5 0.1n 0.1n 0.1n 1 3)
v2  net-_u3-pad2_ gnd pulse(0 5 0.1n 0.1n 0.1n 1 1000)
* u4  net-_u3-pad6_ net-_u1-pad2_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ counter8bit
* u6  out0 plot_v1
* u5  net-_u2-pad25_ out0 dac_bridge_1
* u7  net-_u2-pad24_ out1 dac_bridge_1
* u8  out1 plot_v1
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad6_ adc_bridge_3
v3  net-_u3-pad3_ gnd pulse(0 5 0.1n 0.1n 0.1n 3 5)
a1 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [net-_u1-pad1_ ] [net-_u2-pad10_ net-_u2-pad11_ ] [net-_u2-pad12_ ] [net-_u2-pad13_ ] [net-_u2-pad14_ ] [net-_u2-pad15_ ] [net-_u2-pad16_ ] [net-_u2-pad17_ ] [? ? ? ? ? ? net-_u2-pad24_ net-_u2-pad25_ ] u2
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u1
a3 [net-_u3-pad6_ ] [net-_u1-pad2_ ] [net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ ] u4
a4 [net-_u2-pad25_ ] [out0 ] u5
a5 [net-_u2-pad24_ ] [out1 ] u7
a6 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad6_ ] u3
* Schematic Name:                             spi, NgSpice Name: spi
.model u2 spi(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u1 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u4 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-00 5000e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out0)
plot v(out1)
.endc
.end
