* /home/sumanto/desktop/verilog/esim/ultrasonic/ultrasonic.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ us_sensor
* u2  clk echo net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 1 2)
v2  echo gnd pulse(0 5 600  0.1n 0.1n 10 3000)
* u6  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ trig ss7 ss6 ss5 ss4 ss3 ss2 ss1 dac_bridge_8
* u5  net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ ss0 en2 en1 en0 dac_bridge_4
* u3  clk plot_v1
* u4  echo plot_v1
* u7  trig plot_v1
* u8  ss7 plot_v1
* u9  ss6 plot_v1
* u10  ss5 plot_v1
* u11  ss4 plot_v1
* u12  ss3 plot_v1
* u13  ss2 plot_v1
* u14  ss1 plot_v1
* u15  ss0 plot_v1
* u16  en2 plot_v1
* u17  en1 plot_v1
* u18  en0 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] [net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ ] u1
a2 [clk echo ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a3 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [trig ss7 ss6 ss5 ss4 ss3 ss2 ss1 ] u6
a4 [net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ ] [ss0 en2 en1 en0 ] u5
* Schematic Name:                             us_sensor, NgSpice Name: us_sensor
.model u1 us_sensor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 11000e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(echo)+6 v(trig)+12 v(ss7)+18 v(ss6)+24 v(ss5)+30 v(ss4)+36 v(ss3)+42 v(ss2)+48 v(ss1)+54 v(ss0)+60 v(en2)+66 v(en1)+72 v(en0)+78
.endc
.end
