* /home/sumanto/desktop/verilog/esim/xorxnor/xorxnor.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ixorxnor
* u4  a b net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u5  net-_u1-pad3_ net-_u1-pad4_ xor xnor dac_bridge_2
v1  a gnd pulse(5 0 0.1n 0.1m 0.1m 1 2)
v2  b gnd pulse(0 5 0.1n 0.1m 0.1m 2 4)
* u2  a plot_v1
* u3  b plot_v1
* u6  xor plot_v1
* u7  xnor plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
a2 [a b ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a3 [net-_u1-pad3_ net-_u1-pad4_ ] [xor xnor ] u5
* Schematic Name:                             ixorxnor, NgSpice Name: ixorxnor
.model u1 ixorxnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a) v(b)+6 v(xor)+12 v(xnor)+18
.endc
.end
